US05155268
A solution of N-[4-[(ethylheptylamino)acetyl]phenyl]methanesulfonamide monohydrochloride as prepared in Preparation 6 (4.0 g, 0.0103 mol) and 150 ml of MeOH is reduced in a Parr hydrogenator using 10% palladium-on-carbon (0.3 g) at an initial hydrogen pressure of 50 PSI. After 18 hours the reaction mixture is filtered over Celite and the filtrate is concentrated in vacuo. The residue is mixed with NaHCO3 and extracted well with CH2Cl2. The combined organic extracts are washed with brine, dried (Na2SO4), and concentrated in vacuo. The residue is then dissolved in Et2O, treated with Darco, and crystallized from Et2O:Pet ether to yield 3.1 g of N-[4-[2-(ethylheptylamino)-1-hydroxyethyl]phenyl]methanesulfonamide, m.p. 65°-67° C. The analytical sample has m.p. 71°-72° C.

reactant | N-[4-[(ethylheptylamino)acetyl]phenyl]methanesulfonamide monohydrochloride | Cl.C(C)N(CCCCCCC)CC(=O)C1=CC=C(C=C1)NS(=O)(=O)C
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 0.3 g | [Pd] | Pd
solvent | MeOH | 150 ml | CO | CH4O
product | N-[4-[2-(ethylheptylamino)-1-hydroxyethyl]phenyl]methanesulfonamide | 3.1 g | C(C)N(CC(O)C1=CC=C(C=C1)NS(=O)(=O)C)CCCCCCC | C18H32N2O3S
